US07544679B2
A solution of 50.0 mg (0.13 mmol) 2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid and 18.6 mg (0.26 mmol) cyclopropanmethylamine in 1.5 ml dimethylformamid were cooled to 0° C. and 20 μl (0.14 mmol) triethylamine and 54.5 mg (0.14 mmol) O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) were added. Stirring was continued over the weekend at room temperature. Removal of the solvent by distillation and chromatography on silicagel with heptane/ethylacetate (gradient 19:1 to 1:1) yielded 10.0 mg (18%) (R/S)-N-cyclopropylmethyl-2-hydroxy-2-isobutyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide MS (m/e): 436.1 (M+H)+.

reactant | 2-hydroxy-4-methyl-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 0.13 mmol, 50.0 mg | OC(C(=O)O)(CC(C)C)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C21H22N2O5
reactant | cyclopropanmethylamine | 0.26 mmol, 18.6 mg | C1(CC1)CN | C4H9N
reactant | triethylamine | 0.14 mmol, 20 μl | C(C)N(CC)CC | C6H15N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.14 mmol, 54.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamid | 1.5 ml | CN(C=O)C | C3H7NO
product | (R/S)-N-cyclopropylmethyl-2-hydroxy-2-isobutyl-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | 10.0 mg, 18% | C1(CC1)CN(C(C(C(=O)N)(CC(C)C)O)=O)[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C25H29N3O4
